US07799820B2
Synthesis of 2-chloro-3-{[6-(ethylsulfonyl)pyridin-3-yl]oxy}pyridine
Cesium carbonate (20 g) was added to an N-methyl-2-pyrrolidinone (160 ml) solution of 2-chloro-3-hydroxypyridine (6 g) and 5-chloro-2-(ethylsulfonyl)pyridine (4.8 g), and stirred at 100° C. for 24 hours. After this was diluted with ethyl acetate, aqueous saturated ammonium chloride solution was added with cooling with ice. The organic layer was washed with water and saturated saline water. After dried, the solvent was evaporated away under reduced pressure, and the residue was purified by silica gel column chromatography (developing solvent: hexane/ethyl acetate) to obtain the entitled compound as a brown oil.

reactant | Cesium carbonate | 20 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N-methyl-2-pyrrolidinone | 160 ml | CN1C(CCC1)=O | C5H9NO
reactant | 2-chloro-3-hydroxypyridine | 6 g | ClC1=NC=CC=C1O | C5H4ClNO
reactant | 5-chloro-2-(ethylsulfonyl)pyridine | 4.8 g | ClC=1C=CC(=NC1)S(=O)(=O)CC | C7H8ClNO2S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ammonium chloride | [Cl-].[NH4+]
product | 2-chloro-3-{[6-(ethylsulfonyl)pyridin-3-yl]oxy}pyridine | ClC1=NC=CC=C1OC=1C=NC(=CC1)S(=O)(=O)CC | C12H11ClN2O3S
